US08211919B2
To a mixture of 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide bis(trifluoroacetate) (11.0 g) in methanol (160 ml) was added 1N sodium hydroxide aqueous solution (51.7 mL) at ambient temperature. After stirring at ambient temperature for 2 hours, methanol was evaporated in vacuo. Water (20 mL) was added to the resulting mixture and the residual solid was collected by filtration. The crystals were washed with water (30 mL) to afford 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide (5.16 g) as colorless crystals.

reactant | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide bis(trifluoroacetate) | 11.0 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1
reactant | sodium hydroxide | 1N, 51.7 mL | [OH-].[Na+]
solvent | methanol | 160 ml | CO | CH4O
product | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide | 5.16 g | N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C19H17N3O
